US08476297B2
N-Benzyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.36 mmol, example 9 (step 3) and DIEA (62.8 μL, 0.36 mmol) in DCM (2 mL) was added benzyl isocyanate (44.2 μL, 0.36 mmol). The resulting mixture was reacted under the same conditions as described for example 10 to give the title compound as a white solid. MS (ESI, positive ion) m/z: 411 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | DIEA | 0.36 mmol, 62.8 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl isocyanate | 0.36 mmol, 44.2 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-Benzyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | C(C1=CC=CC=C1)NC(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C24H21F3N2O
